* DC Motor Model for LTspice
.subckt DC_MOTOR A B
R_motor A N1 1.2    ; Armature resistance (1.2Ω)
L_motor N1 N2 1mH   ; Armature inductance (1mH)

* Approximate Speed Calculation: Low-Pass Filter as Integrator
R_speed N2 speed 1k  ; Simulates speed build-up over time
C_speed speed 0 10m  ; Adjust for realistic acceleration

* Back EMF: V = Ke * Speed
E_emf N2 B VALUE={0.1 * V(speed)}

R_load N2 B 5  ; Load resistance (5Ω)
.ends DC_MOTOR
